US07576094B2
3-(Methoxymethyl)-5,7,8-trimethylspiro[chromene-2,1′-cyclobutan]-6-ol was prepared by treating 3-(hydroxymethyl)-5,7,8-trimethylspiro[chromene-2,1′-cyclobutan]-6-ol with methanol in the presence of conc. hydrochloric acid:

reactant | 3-(hydroxymethyl)-5,7,8-trimethylspiro[chromene-2,1′-cyclobutan]-6-ol | OCC1=CC2=C(C(=C(C(=C2OC12CCC2)C)C)O)C | C16H20O3
reactant | hydrochloric acid | Cl | ClH
reactant | methanol | CO | CH4O
product | 3-(Methoxymethyl)-5,7,8-trimethylspiro[chromene-2,1′-cyclobutan]-6-ol | COCC1=CC2=C(C(=C(C(=C2OC12CCC2)C)C)O)C | C17H22O3
